US05750531
Step 4: 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 4-fluoro-2-methylaniline(0.60 ml, 5.4 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.75 g, 2.40 mmol) and dimethylformamide(5 ml), 0.58 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 5.4 mmol, 0.60 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 2.40 mmol, 0.75 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C18H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.58 g, Yield: 55% | Cl.CC1=C(C=CC(=C1)F)NC1=NC=2CCCCC2C(=N1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C25H27FN4.ClH/c1-16-15-19(26)11-12-22(16)27-25-28-23-10-6-5-9-21(23)24(29-25)30-14-13-18-7-3-4-8-20(18)17(30)2;/h3-4,7-8,11-12,15,17H,5-6,9-10,13-14H2,1-2H3,(H,27,28,29);1H
